US07115750B1
N-[6-(2-Hydroxyethyl)-7,8-dihydro-2-naphthalenyl]acetamide
Lithium aluminum hydride (242 mg, 6.38 mmol) was added to a tetrahydrofuran solution (16 ml) of methyl [6-(acetylamino)-3,4-dihydro-2-naphthalenyl]acetate (827 mg, 3.19 mmol) obtained in Reference Example 101 under ice-cooling, which was stirred at room temperature for 1 hour. Ethyl acetate was added to the reaction mixture, which was washed with 1N hydrochloric acid and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and then the solvent was distilled out under reduced pressure. The residue was powdered with isopropyl ether, to give the titled compound (364 mg).

reactant | Lithium aluminum hydride | 6.38 mmol, 242 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tetrahydrofuran | 16 ml | O1CCCC1 | C4H8O
reactant | methyl [6-(acetylamino)-3,4-dihydro-2-naphthalenyl]acetate | 3.19 mmol, 827 mg | C(C)(=O)NC=1C=C2CCC(=CC2=CC1)CC(=O)OC | C15H17NO3
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[6-(2-Hydroxyethyl)-7,8-dihydro-2-naphthalenyl]acetamide | 364 mg | OCCC1=CC=2C=CC(=CC2CC1)NC(C)=O | C14H17NO2
